US07977344B2
6-Amino-2-[(2-cyclopropylethyl)amino]-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-Purin-8-one
To a solution of N2-(2-cyclopropylethyl)-8-(methoxy)-9-(tetrahydro-3-furanylmethyl)-9H-purine-2,6-diamine (209 mg) in methanol (21 ml) at room temperature was added 4.0M hydrogen chloride in 1,4-dioxane (3.93 ml) to give a colorless solution. The reaction mixture was stirred at room temperature for 4 hours. The reaction mixture was neutralised with 2M NaOH and concentrated in vacuo. The resultant solid was taken up in water (50 ml) and filtered off to give a white solid. This solid was recrystallised from ethanol:water (1:1) and filtered to afford an off-white crystalline solid (105 mg).

reactant | N2-(2-cyclopropylethyl)-8-(methoxy)-9-(tetrahydro-3-furanylmethyl)-9H-purine-2,6-diamine | 209 mg | C1(CC1)CCNC1=NC(=C2N=C(N(C2=N1)CC1COCC1)OC)N | C16H24N6O2
reactant | hydrogen chloride | 4.0M | Cl | ClH
reactant | NaOH | 2M | [OH-].[Na+]
solvent | methanol | 21 ml | CO | CH4O
solvent | 1,4-dioxane | 3.93 ml | O1CCOCC1 | C4H8O2
product | 6-Amino-2-[(2-cyclopropylethyl)amino]-9-(tetrahydro-3-furanylmethyl)-7,9-dihydro-8H-Purin-8-one | 105 mg | NC1=C2NC(N(C2=NC(=N1)NCCC1CC1)CC1COCC1)=O | C15H22N6O2
